US05661108
Under a nitrogen atmosphere, a stirred solution of 0.4 gram (0.005 mole) of sodium methoxide in 5 mL of N,N-dimethylformamide was cooled to about 0°-5° C., and 1.8 grams (0.005 mole) of ethyl 3-amino-4,4,4-trifluoro-2-butenoate in 15 mL of N,N-dimethylformamide was added dropwise. Upon completion of the addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for 30 minutes. After this time, the reaction mixture was again cooled, and a solution of 1.8 grams (0.005 mole) of 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluoro-6-ethoxycarbonylaminobenzimidazole in 20 mL of N,N-dimethylformamide was added dropwise. The reaction mixture was heated to 110° C., and 0.24 mL (catalyst) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) was added in one portion. Upon completion of the addition, the reaction mixture was heated to about 130° C., where it stirred for about 3.5 hours. The reaction mixture was then allowed to cool to ambient temperature as it stirred for about 72 hours, after which the reaction mixture was poured into ice-cold aqueous 3N hydrochloric acid. The resultant precipitate was collected by filtration and dried, yielding 0.6 gram of 3-[1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazol-6-yl]-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | sodium methoxide | 0.005 mole, 0.4 gram | C[O-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluoro-2-butenoate | 0.005 mole, 1.8 grams | NC(=CC(=O)OCC)C(F)(F)F | C6H8F3NO2
reactant | 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluoro-6-ethoxycarbonylaminobenzimidazole | 0.005 mole, 1.8 grams | C(C#C)N1C(=NC2=C1C=C(C(=C2)F)NC(=O)OCC)C(F)(F)F | C14H11F4N3O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.24 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-[1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazol-6-yl]-6-trifluoromethyluracil | 0.6 gram | C(C#C)N1C(=NC2=C1C=C(C(=C2)F)N2C(NC(=CC2=O)C(F)(F)F)=O)C(F)(F)F | C16H7F7N4O2
